US06992087B2
(1R,2S)-1-[(5-bromo-3-cyclopropyl-6-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting (1R,2S)-1-[(3-cyclopropyl-6-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.95-1.08, 1.69-1.78, 2.49, 3.04, 3.24, 4.78, 5.39, 5.58, 7.24-7.33; MS (ESI+) for C17H18BrN3O m/z 360 (M+H)+.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | (1R,2S)-1-[(3-cyclopropyl-6-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C=1C(=NC(=CN1)C)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H19N3O
product | (1R,2S)-1-[(5-bromo-3-cyclopropyl-6-methylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C1CC1 | C17H18BrN3O
